US20010019995A1
1,1,2-Tribromo-2-(7-hydroxyheptyl)cyclopropane (0.90 g, 2.3 mmol) was dissolved in 60 ml of glacial acetic acid. A solution of 1.0 g (10 mmol) of chromium trioxide dissolved in 14 ml of 90% aqueous acetic acid was added and the reaction mixture was stirred at room temperature for 24 hours. Water (300 ml)was added. The solution was extracted with ether. The ether phase was extracted three times with 1N NaOH solution. A little sodium bisulfite was added. The aqueous extracts were acidified with 6N HCl, and extracted with ether twice. The ether extracts were washed with brine, dried over magnesium sulfate and stripped to give 0.56 g 7-(1,1,2-tribromo-cyclopropyl)-heptanoic acid.

reactant | 1,1,2-Tribromo-2-(7-hydroxyheptyl)cyclopropane | 2.3 mmol, 0.90 g | BrC1(C(C1)(CCCCCCCO)Br)Br | C10H17Br3O
reactant | Water | 300 ml | O | H2O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 14 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 10 mmol, 1.0 g | [O-2].[O-2].[O-2].[Cr+6]
product | 7-(1,1,2-tribromo-cyclopropyl)-heptanoic acid | 0.56 g | BrC1(C(C1)(Br)CCCCCCC(=O)O)Br | C10H15Br3O2
